2164-11-13 08:53:00 Physician Resident Progress Note
Chief Complaint: s/p MVC
   24 Hour Events:
 OR RECEIVED - At [**2164-11-12**] 06:28 PM
 FEVER - 101.4
F - [**2164-11-13**] 12:00 AM
   Went to OR for above operations.  Ortho plans to go back Wed for
   posterior ORIF of R acetabulum, hand plans to go tmw for L distal
   radius/ulna. C/T/L spine clear by CT, due for repeat CT tmw routine.
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated, vented
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2164-11-13**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2164-11-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Genitourinary: Foley
   Pain: [**12-28**] Minimal
   Pain location: multiple orthopedic and abdomen, all well controlled
   Flowsheet Data as of  [**2164-11-13**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.5
C (99.5
   HR: 126 (110 - 135) bpm
   BP: 119/75(91) {118/73(91) - 154/93(113)} mmHg
   RR: 23 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 150.4 kg (admission): 100 kg
    CVP: 11 (2 - 14)mmHg
   Total In:
                                                                  8,147 mL
                                                                  1,027 mL
   PO:
   TF:
   IVF:
                                                                  6,616 mL
                                                                  1,027 mL
   Blood products:
                                                                  1,531 mL
   Total out:
                                                                  3,630 mL
                                                                    420 mL
   Urine:
                                                                    785 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,517 mL
                                                                    608 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 553 (490 - 644) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 16 cmH2O
   Plateau: 10 cmH2O
   SpO2: 97%
   ABG: 7.41/39/123/25/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, R leg to traction, cap refill
   grossly <2s
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Normal
   Labs / Radiology
   195 K/uL
   10.3 g/dL
   141 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   28.0 %
   9.9 K/uL
        [image002.jpg]
                            [**2164-11-12**]  10:50 AM
                            [**2164-11-12**]  12:30 PM
                            [**2164-11-12**]  02:45 PM
                            [**2164-11-12**]  04:08 PM
                            [**2164-11-12**]  08:27 PM
                            [**2164-11-12**]  08:43 PM
                            [**2164-11-12**]  10:19 PM
                            [**2164-11-13**]  12:25 AM
                            [**2164-11-13**]  02:11 AM
                            [**2164-11-13**]  04:11 AM
   WBC
   8.7
   8.9
   9.9
   Hct
   31
   33
   36
   34
   32.0
   30.7
   28.0
   Plt
   175
   164
   195
   Cr
   0.7
   TCO2
   25
   25
   25
   24
   25
   25
   26
   Glucose
   116
   148
   137
   125
   141
   Other labs: PT / PTT / INR:13.6/25.1/1.2, Differential-Neuts:84.2 %,
   Band:0.0 %, Lymph:11.2 %, Mono:4.2 %, Eos:0.2 %, Lactic Acid:2.7
   mmol/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RIB FRACTURE
   R 1,2,4
 PNEUMOTHORAX, OTHER (NOT HOSPITAL ACQUIRED OR TRAUMATIC)
   very small R side
 FRACTURE, OTHER
   R mid radius/ulna fx, L mid ulnar fx/distal radius and ulna fx
 HIP FRACTURE (FEMORAL NECK FRACTURE, FEMUR)
   R acetabulum shattered, R inf pubic rami fx, L si joint diasthesis,
   sacral ala fx L
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   G I renal lac, Gr II liver lac, Gr IV splenic lac, hemoperitoneum.
   Sternal fx w/ ant medisatinal hematoma-
 TRAUMA, S/P
   L3 sup endplate fx, L3 R transverse process fx,
   ASSESSMENT AND PLAN: 18M s/p MVC sustaining multiple orthopedic
   injuries and grade 4 splenic lac, grade 2 liver lac, grade 1 renal
   lac.
   NEUROLOGIC: Sedated on propofol, moves all extremities when weaned off
   sedation. Appears to be neurologically intact.
   Neuro checks Q: 1 hour  change to q4
   Pain: Fentanyl prn change to dilauded prn after extubation
   CARDIOVASCULAR: remains tachy 120-30 overnight w/ nl BP.
   PULMONARY: Intubated, minimized settings, extubation today.
   GI / ABD: Intraabdominal lacerations managing conservatively. trend Hct
   q4.
   NUTRITION: NPO, consider start ADAT after OR tmw.
   RENAL: Cr. 0.9, adequate UOP
   HEMATOLOGY: Hct 31.3 (30.8), continue serial Hct's, no sch. Has filter.
   could restart 48 h after injuries given liver/renal lacs.
   ENDOCRINE: RISS
   ID: Afebrile, nl WBC, no Abx
   LINES/TUBES/DRAINS: ETT, OGT, L Femoral A-line, RSC
   WOUNDS: R leg, B UE. TLE in traction, will be going to OR wed/thurs for
   L forarm and distal radius, and Wed to complete R acetabulum from post
   approach.
   IMAGING:  CT pelvis today and R wrist today
   FLUIDS: LR@100, change to d51/2ns+20k
   CONSULTS: Trauma, Ortho
   BILLING DIAGNOSIS:
   ICU CARE:
   GLYCEMIC CONTROL: RISS
   PROPHYLAXIS: Boots, IVC filter, H2, VAP bundle
   COMMUNICATIONS:
   ICU Consent: Signed
   CODE STATUS: Full
   DISPOSITION: TICU
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2164-11-11**] 01:55 PM
   Arterial Line - [**2164-11-11**] 03:26 PM
   Prophylaxis:
   DVT: Boots, IVC filter
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU